US05057534
β-Chloro-4-methyl-γ-oxobenzenbutanoic acid methyl ester
A stirred solution of 152.6 g (0.74 mole) of 3-(4-methylbenzoyl)propionic methyl ester in 225 mL of methylene chloride was cooled to -5° C. in methanol:ice bath. A solution of 109.9 g (66 mL, 0.81 mole) of sulfuryl chloride (97%) in 65 mL of methylene chloride was added dropwise at a rate which maintained the temperature at 0° C. The reaction mixture was allowed to warm to ambient temperature and stirred overnight. The reaction mixture was cooled to 0° C. in an ice bath and treated with 3N sodium hydroxide until just basic. The organic portion was separated, dried over magnesium sulfate and concentrated in vacuo (172.9 g). The oil was distilled at 125° C. (150 mm Hg) in 4 fractions. A sample of fraction 2 was sent for elemental analysis.

reactant | 3-(4-methylbenzoyl)propionic methyl ester | 0.74 mole, 152.6 g | COC(CCC(C1=CC=C(C=C1)C)=O)=O | C12H14O3
reactant | sulfuryl chloride | 0.81 mole, 66 mL, 109.9 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | methylene chloride | 225 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | methylene chloride | 65 mL | C(Cl)Cl | CH2Cl2
product | β-Chloro-4-methyl-γ-oxobenzenbutanoic acid methyl ester | COC(CC(C(C1=CC=C(C=C1)C)=O)Cl)=O | C12H13ClO3
